US06107458
A solution of 4-[4-(4-Octyloxyphenyl)piperazin-1-yl]benzonitrile (0.5 g) in 20% H2SO4 aqueous solution (30 ml) and acetic acid (20 ml) was refluxed for 9 hours. The reaction mixture was pulverized with water. The precipitate was collected by filtration, and added to a mixture of water, tetrahydrofuran and ethyl acetate, and adjusted to pH 2.5 with 1N NaOH aqueous solution. The organic layer was taken, and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 4-[4-(4-Octyloxyphenyl)piperazin-1-yl]benzoic acid (388 mg).

reactant | 4-[4-(4-Octyloxyphenyl)piperazin-1-yl]benzonitrile | 0.5 g | C(CCCCCCC)OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C#N)C=C1 | C25H33N3O
reactant | water | O | H2O
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | H2SO4 | 30 ml | OS(=O)(=O)O | H2O4S
product | 4-[4-(4-Octyloxyphenyl)piperazin-1-yl]benzoic acid | 388 mg | C(CCCCCCC)OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C25H34N2O3
